* Example of AC analysis (low and high pass filter)
V1 A 0 100
R1 A B 1e3
C1 B 0 1e-6
* RC network with fc = 1/(2*pi*R1*C1)= 159.24 Hz

* from 1 Hz to 200 Hz with 50 points per decade
.ac dec 50 1 2000

* V(C1)/V(V1) --> low pass filter
* V(R1)/V(V1) --> high pass filter
.tf v(C1) v(V1) v(R1) v(V1) 
